US07902252B2
2.12. Synthesis of 3-tert-butyl-4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (3)
The title compound was synthesized from methyl 3-tert-butyl-4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate (33 mg, 0.14 mmol) and lithium hydroxide monohydrate (30 mg, 0.71 mmol) according to General Procedure 7. Purification by reverse phase semi-preparative HPLC provided a pure fraction (11.6 mg, 37%) of 3-tert-butyl-4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid (3). 1H NMR (400 MHz, METHANOL-d4) δ ppm 1.46 (s, 9H), 2.82-2.90 (m, 4H); LCMS-MS (ESI+) 221.7 (M−H); HPLC (UV=95.8%).

reactant | methyl 3-tert-butyl-4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylate | 0.14 mmol, 33 mg | C(C)(C)(C)C=1C2=C(NC1C(=O)OC)CCC2=O | C13H17NO3
reactant | lithium hydroxide monohydrate | 0.71 mmol, 30 mg | O.[OH-].[Li+]
product | 3-tert-butyl-4-oxo-1,4,5,6-tetrahydrocyclopenta[b]pyrrole-2-carboxylic acid | 11.6 mg, 37% | C(C)(C)(C)C=1C2=C(NC1C(=O)O)CCC2=O | C12H15NO3
